* Testcase 000583 — Full Analysis (sky130 tt corner)
* SKY130 model header — replaces the ideal level-1 .model cards
* Ships with the demo; the paths point at the local sky130 PDK checkout.
* NOTE: libs.tech/ngspice/all.spice sets ".option scale=1.0u", so every
* instance L/W below is written in microns WITHOUT a "u" suffix.
.param mc_mm_switch=0
.param mc_pr_switch=0
.include /home/idies/workspace/Temporary/xyu1/scratch/skywater-pdk-libs-sky130_fd_pr/models/corners/tt.spice
.include /home/idies/workspace/Temporary/xyu1/scratch/skywater-pdk-libs-sky130_fd_pr/models/r+c/res_typical__cap_typical.spice
.include /home/idies/workspace/Temporary/xyu1/scratch/skywater-pdk-libs-sky130_fd_pr/models/r+c/res_typical__cap_typical__lin.spice
.include /home/idies/workspace/Temporary/xyu1/scratch/skywater-pdk-libs-sky130_fd_pr/models/corners/tt/specialized_cells.spice
.model DIDEAL D   is=1e-14 n=1
.options reltol=1e-3 itl1=500 itl2=100

* Sources
VVDD VDD 0 1.8
VVSS VSS 0 0
VIN IN 0 DC 0.9 AC 1

* Circuit
XM1 Q QX TAIL VSS sky130_fd_pr__nfet_01v8 l=0.5 w=5
XM2 QX Q TAIL VSS sky130_fd_pr__nfet_01v8 l=0.5 w=5
XM3 TAIL BIAS VSS VSS sky130_fd_pr__nfet_01v8 l=0.5 w=5
XM4 Q IN QX VSS sky130_fd_pr__nfet_01v8 l=0.5 w=5
L1 VDD Q 10n
L2 VDD QX 10n

.control
set filetype=ascii

op
let power_dc = abs(i(VVDD)) * 1.8
print power_dc

ac dec 100 1 10g
let gain_QX = db(vm(QX))
let gain_BIAS = db(vm(BIAS))
let gain_TAIL = db(vm(TAIL))
let gain_Q = db(vm(Q))
meas ac max_gain_QX MAX gain_QX
meas ac max_gain_BIAS MAX gain_BIAS
meas ac max_gain_TAIL MAX gain_TAIL
meas ac max_gain_Q MAX gain_Q

* Use first probe node for standard metrics
let gain_db = db(vm(QX))
meas ac dc_gain_db FIND gain_db AT=1
meas ac ugbw WHEN gain_db=0 CROSS=1
let vout_dc = v(QX)

print dc_gain_db ugbw vout_dc gain_QX gain_BIAS gain_TAIL gain_Q

quit
.endc

.end
